US09238656B2
(1S,2S,3R,4R)-3-[6-Bromo-2-(4-chloro-2-pyrrolidin-1-yl-thiazol-5-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CLXVII)
In a similar fashion to Compound LXXXVII, 4-Chloro-2-pyrrolidin-1-yl-thiazole-5-carbaldehyde (204.9 mg, 0.9456 mmol), (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (290 mg, 0.85 mmol), and Ammonium acetate (131.2 mg, 1.702 mmol) were reacted to produce 23.46 mg (5%) of the title compound. (300 MHz, DMSO-d6) 2.68 (s, 1H), 8.00 (s, 1H), 7.74 (m, 2H), 7.23 (s, 1H), 7.13 (m, 1H), 6.38-6.31 (m, 2H), 5.05 (t, J=17 Hz, 8.5 Hz, 1H), 3.44 m, 4H), 2.87 (s, 1H), 2.73 (s, 1H), 2.58 (d, J=8 Hz, 1H), 2.21 (d, J=8 Hz, 1H), 2.01 (m, 5H). MS=535 (M+H), HPLC: 2.54 min. (G Method)

reactant | 4-Chloro-2-pyrrolidin-1-yl-thiazole-5-carbaldehyde | 0.9456 mmol, 204.9 mg | ClC=1N=C(SC1C=O)N1CCCC1 | C8H9ClN2OS
reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.85 mmol, 290 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | Ammonium acetate | 1.702 mmol, 131.2 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Bromo-2-(4-chloro-2-pyrrolidin-1-yl-thiazol-5-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 23.46 mg, 5% | BrC=1C(=C2C(=NC1)NC(=N2)C2=C(N=C(S2)N2CCCC2)Cl)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C21H21BrClN7OS
